US08877774B2
Step 1. 3-((3-((1,3-Dioxolan-2-yl)methyl)benzyl)oxy)benzaldehyde
The title compound was prepared as described in Example 22 with (3-((1,3-dioxolan-2-yl)methyl)phenyl)methanol and 3-hydroxybenzaldehyde replacing (4-((1,3-dioxolan-2-yl)methyl)phenyl)methanol and 3-hydroxybenzophenone, respectively, in Step 2.

reactant | (3-((1,3-dioxolan-2-yl)methyl)phenyl)methanol | O1C(OCC1)CC=1C=C(C=CC1)CO | C11H14O3
reactant | 3-hydroxybenzaldehyde | OC=1C=C(C=O)C=CC1 | C7H6O2
reactant | 3-hydroxybenzophenone | OC=1C=C(C(=O)C2=CC=CC=C2)C=CC1 | C13H10O2
product | 3-((3-((1,3-Dioxolan-2-yl)methyl)benzyl)oxy)benzaldehyde | O1C(OCC1)CC=1C=C(COC=2C=C(C=O)C=CC2)C=CC1 | C18H18O4
